US08440662B2
Step 1: 2,2,2-trichloroethyl(4-(dimethylcarbamoyl)phenyl)carbamate
To a 250 mL round bottom flask, 4-amino-N,N-dimethyl-benzamide (20 g, 0.1219 mol; prepared as described in Preparation 1) and 2,2,2-trichloroethyl chloroformate (30 g, 0.1463 mol), TEA (34 mL, 0.2438 mol) and DCM (100 mL) was added. The reaction mixture was stirred at room temperature for 1 h. The reaction mass was diluted with DCM and washed with water. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to get the crude product. The crude product was washed with diethyl ether and dried under reduced pressure to afford the title compound [30 g, 73%]. LC-MS (ESI): Calculated mass: 338.0; Observed mass: 341.0 (RT: 1.38 min). The compound was directly taken to the next step.

reactant | 4-amino-N,N-dimethyl-benzamide | 0.1219 mol, 20 g | NC1=CC=C(C(=O)N(C)C)C=C1 | C9H12N2O
reactant | 2,2,2-trichloroethyl chloroformate | 0.1463 mol, 30 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloroethyl(4-(dimethylcarbamoyl)phenyl)carbamate | 30 g, 73% | ClC(COC(NC1=CC=C(C=C1)C(N(C)C)=O)=O)(Cl)Cl | C12H13Cl3N2O3
